US04874861
To a solution of 2.0 g (0.01 mol) of the crude product of 2-tert.-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone dissolved in 15 ml of ethanol was added 1.5 ml of 20% sodium hydroxide under stirring at room temperature. After stirring for additional 15 minutes at room temperature, the resulting mixture was added dropwise with a solution of 1.4 g of 2,4-dinitrofluorobenzene dissolved in 5 ml of ethanol and stirred for 10 minutes at room temperature. Crystalline precipitates were collected by filtration, washed with 50 ml of water and 50 ml of ethanol and then recrystallized from 50 ml of benzene to give 2.0 g of 2-tert.-butyl-4-methyl-5-(2',4'-dinitrophenylthio)-3(2H)-pyridazinone.

reactant | 2-tert.-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)C)S | C9H14N2OS
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | 2,4-dinitrofluorobenzene | 1.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-tert.-butyl-4-methyl-5-(2',4'-dinitrophenylthio)-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H16N4O5S
